US08236806B2
2-methyl-4-(3-(1-phenyl-5-p-tolyl-1H-pyrazol-3-yl)propyl)-1-m-tolylpiperazine (Compound 38)
112 mg (81%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-5-p-tolyl-1H-pyrazol-3-yl)propanal (80 mg, 0.276 mmol), 2-methyl-1-m-tolylpiperazine (53 mg, 0.276 mmol), DIPEA (0.072 mL, 0.414 mmol) and NaBH(OAc)3 (175 mg, 0.828 mmol).

reactant | 3-(1-phenyl-5-p-tolyl-1H-pyrazol-3-yl)propanal | 0.276 mmol, 80 mg | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=C(C=C1)C)CCC=O | C19H18N2O
reactant | 2-methyl-1-m-tolylpiperazine | 0.276 mmol, 53 mg | CC1N(CCNC1)C=1C=C(C=CC1)C | C12H18N2
reactant | DIPEA | 0.414 mmol, 0.072 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.828 mmol, 175 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 2-methyl-4-(3-(1-phenyl-5-p-tolyl-1H-pyrazol-3-yl)propyl)-1-m-tolylpiperazine | CC1N(CCN(C1)CCCC1=NN(C(=C1)C1=CC=C(C=C1)C)C1=CC=CC=C1)C=1C=C(C=CC1)C | C31H36N4
